US04182757
7.0 g of 1-(2-chloroethyl)-3-isobutyl-3-D-galactopyranosylurea are dissolved in 15 ml of formic acid, and 5.0 g of sodium nitrite are added gradually thereto at 0° to 5° C. for one hour under stirring. The mixture is further stirred at the same temperature for one hour. After the reaction, the mixture is treated in the same manner as described in Example 5-(2). 2.0 g of 1-(2-chloroethyl)-1-nitroso-3-isobutyl-3-D-galactopyranosylurea are thereby obtained as a pale yellow powder.

reactant | 1-(2-chloroethyl)-3-isobutyl-3-D-galactopyranosylurea | 7.0 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CC(C)C | C13H25ClN2O6
reactant | sodium nitrite | 5.0 g | N(=O)[O-].[Na+]
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | 1-(2-chloroethyl)-1-nitroso-3-isobutyl-3-D-galactopyranosylurea | 2.0 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CC(C)C)N=O | C13H24ClN3O7
